US06121201
A suspension of sodium hydride (1.0 g, 60% in oil ) in N,N-dimethylformamide (30 ml) was stirred at 0° C. under nitrogen while a solution of ethyl 3-amino-4,4,4-trifluorocrotonate (4.5 g) in N,N-dimethylformamide (20 ml) was added dropwise. After stirring for 15 minutes, a solution of 4-chloro-2-fluoro-5-isopropyloxyphenylisocyanate (5.6 g) in toluene (25 ml) was added slowly at -35° C. The solution was stirred at room temperature for 2 hours and treated with a solution of 2,4-dinitrophenoxyamine (5.8 g) in N,N-dimethylformamide (20 ml). Stirring was continued for 3 days. The solution was processed and gave a solid which was chromatographed on silica gel eluting with ethyl acetate:hexane, 1:5, containing 0.1% of triethylamine. 1-Amino-3-(4-chloro-2-fluoro-5-isopropyloxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione was obtained as a white solid (5.3 g).

reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 4.5 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 4-chloro-2-fluoro-5-isopropyloxyphenylisocyanate | 5.6 g | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
reactant | 2,4-dinitrophenoxyamine | 5.8 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Amino-3-(4-chloro-2-fluoro-5-isopropyloxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C14H12ClF4N3O3
